US09145393B2
To a solution of methyl 4-bromopicolinate (1.0 g, 5.0 mmol) in DCM (500 mL) and DMF (20 mL) was added 4-isopropyl-3-methylbenzenamine hydrochloride (1.08 g, 5.90 mmol), HATU (3.8 g, 10 mmol), DIPEA (4.9 mL, 30 mmol) and the mixture was stirred at reflux overnight. After cooling to room temperature and evaporation of the solvent, the residue was purified by combi-flash (ISCO, 40g silica, UV254, 3:1 pet ether/ethyl acetate) to afford 4-bromo-N-(4-isopropyl-3-methylphenyl)picolinamide (1.32 g, 80% yield) as a yellow oil: MS (ES) m/z 333 (M+H).

reactant | methyl 4-bromopicolinate | 5.0 mmol, 1.0 g | BrC1=CC(=NC=C1)C(=O)OC | C7H6BrNO2
reactant | 4-isopropyl-3-methylbenzenamine hydrochloride | 5.90 mmol, 1.08 g | Cl.C(C)(C)C1=C(C=C(C=C1)N)C
reactant | HATU | 10 mmol, 3.8 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 30 mmol, 4.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-bromo-N-(4-isopropyl-3-methylphenyl)picolinamide | 1.32 g, 80% yield | BrC1=CC(=NC=C1)C(=O)NC1=CC(=C(C=C1)C(C)C)C | C16H17BrN2O
